US07829552B2
To a stirring solution of N-(5-bromo-2-methoxymethoxy-phenyl)dimethylamine (3.4 g, 13.07 mmol) in THF (80 mL) at −78° C. was added n-BuLi (5.22 mL, 2.5 M in hexanes). The mixture was stirred at −78° C. for 1 hr and a solution of 2,6-dimethyl-4-triisopropylsilanyloxy-benzaldehyde (3.6 g, 11.77 mmol) was added. The reaction mixture was stirred at −78° C. for 1 hr, allowed to warm to room temperature and stirred for 1 hr. The reaction mixture was quenched with saturated NH4Cl and diluted with diethyl ether. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (30:70) to afford (3-dimethylamino-4-methoxymethoxy-phenyl)-(2,6-dimethyl-4-triisopropylsilanyloxyphenyl)methanol as a yellow oil (4 g, 63%): 1H NMR (300 MHz, DMSO-d6): δ 6.89 (d, J=8.4 Hz, 1 H), 6.79 (s, 1 H), 6.61 (m, 1 H), 6.51 (s, 2 H), 6.01 (d, J=4.0 Hz, 1 H), 5.65 (d, J=4.0 Hz, 1 H), 5.14 (s, 2 H), 3.41 (s, 3 H), 2.64 (s, 6 H), 2.17 (s, 6 H), 1.24 (m, 3 H), 1.08 (d, J=7.2 Hz, 18 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=25% ethyl acetate in hexanes; Rf=0.27.

reactant | N-(5-bromo-2-methoxymethoxy-phenyl)dimethylamine | 13.07 mmol, 3.4 g | BrC=1C=CC(=C(C1)N(C)C)OCOC | C10H14BrNO2
reactant | n-BuLi | 2.5 M, 5.22 mL | [Li]CCCC
reactant | 2,6-dimethyl-4-triisopropylsilanyloxy-benzaldehyde | 11.77 mmol, 3.6 g | CC1=C(C=O)C(=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C | C18H30O2Si
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (3-dimethylamino-4-methoxymethoxy-phenyl)-(2,6-dimethyl-4-triisopropylsilanyloxyphenyl)methanol | 4 g, 63% | CN(C=1C=C(C=CC1OCOC)C(O)C1=C(C=C(C=C1C)O[Si](C(C)C)(C(C)C)C(C)C)C)C | C28H45NO4Si
